US08912169B2
Step 1: Synthesis of methyl 2-(3-(2,4-dimethoxybenzylamino)cyclobutyl)acetate
To methyl 2-(3-oxocyclobutyl)acetate (426 mg) and (2,4-dimethoxyphenyl)methanamine (501 mg) in a flask was added MeOH (20 mL) and Pd/C (10%, 100 mg). The reaction mixture was stirred under hydrogen atmosphere for overnight. Catalyst was removed by filtration through the Celite pad. Removal of the solvent afforded the crude product (850 mg) which was used directly to the next step without further purification.

reactant | methyl 2-(3-oxocyclobutyl)acetate | 426 mg | O=C1CC(C1)CC(=O)OC | C7H10O3
reactant | (2,4-dimethoxyphenyl)methanamine | 501 mg | COC1=C(C=CC(=C1)OC)CN | C9H13NO2
catalyst | Pd/C | 100 mg | [Pd] | Pd
solvent | MeOH | 20 mL | CO | CH4O
product | methyl 2-(3-(2,4-dimethoxybenzylamino)cyclobutyl)acetate | 850 mg | COC1=C(CNC2CC(C2)CC(=O)OC)C=CC(=C1)OC | C16H23NO4
